





* OPA452
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA452
* Date: 24JUN2011
* Model Type: ALL-IN-ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS127C – JULY 2000 – REVISED NOVEMBER 2003
*
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************

*
* BEGIN MODEL OPA452
* BEGIN SIMULATION NOTES
*
* FOR AID IN DC CONVERGENCE SET ITL1 FROM 400 TO 4000
* FOR AID IN TRANSIENT ANALYSIS SET ITL4 FROM 50 TO 500
*
*
* MODEL TEMPERATURE RANGE IS -40 C TO +125 C, NOT ALL PARAMETERS ACCURATELY TRACK THOSE OF AN ACTUAL OPA452 
* OVER THE FULL TEMPERATURE RANGE BUT ARE AS CLOSE AS PRACTICAL
*
* END SIMULATION NOTES
*
*
* BEGIN MODEL FEATURES
*
* OPEN LOOP GAIN AND PHASE
* INPUT VOLTAGE NOISE WITH 1/F
* INPUT CURRENT NOISE
* INPUT BIAS CURRENT
* BIAS CURRENT TEMPERATURE EFFECTS
* INPUT CAPACITANCE
* INPUT COMMON MODE VOLTAGE RANGE
* INPUT CLAMPS TO RAILS
* CMRR WITH FREQUENCY EFFECTS
* PSRR WITH FREQUENCY EFFECTS
* SLEW RATE
* QUIESCENT CURRENT
* HIGH CLOAD EFFECTS
* OUTPUT CURRENT THROUGH SUPPLIES
* OUTPUT CURRENT LIMITING
* CURRENT LIMIT TEMPERATURE EFFECTS
* OUTPUT CLAMPS TO RAILS
* OUTPUT SWING VS OUTPUT CURRENT
* THERMAL SHUTDOWN
* THERMAL SHUTDOWN FLAG OUTPUT
*
* END MODEL FEATURES
* PINOUT ORDER +IN -IN +V -V OUT FLAG
* PINOUT ORDER  1   2   5  4  6    7
*
.SUBCKT OPA452 1 2 5 4 6 7
*
*
* BEGIN MODEL PROGRAMMING
*
* RESISITORS R144 AND R158 BELOW ARE THE THERMAL RESISTANCE
* IN DEGREES C PER WATT FROM CASE TO AMBIENT. THESE VALUES
* MAY BE CHANGED TO REPRESENT DIFFERENT HEAT SINKING OF THE
* CASE. THE GIVEN VALUES ARE FOR TWO SQ INCHES OF COPPER.
* FOR THE THERMAL RESISTANCE OF DIFFERENT HEAT SINKING
* SCENARIOS SEE THE DATA SHEET.
* !!! BOTH VALUS MUST BE THE SAME !!!
R144 167 168 30
R158 170 168 30
*
* THE THREE COMPUTATION LINES BELOW HAVE DIFFERENT SYNTAX
* FOR PSPICE AND PSPICE DERIVED SIMULATORS THAN FOR THE
* BERKELEY SPICE3 AND BERKELEY DERIVED SPICE3 SIMULATORS.
* AND THE HSPICE SIMULATOR
*
* BEGIN PSPICE SYNTAX
E53 164 0 VALUE={V(33)*V(34)}
E56 165 0 VALUE={V(35)*V(36)}
* END PSPICE SYNTAX
*
* BEGIN BERKELEY SYNTAX
*B53 164 0 V = V(33) * V(34)
*B56 165 0 V = V(35) * V(36)
* END BERKELEY SYNTAX
*
* BEGIN HSPICE SYNTAX
*E53 164 0 VOL='V(33)*V(34)'
*E56 165 0 VOL='V(35)*V(36)'
* END HSPICE SYNTAX
*
* END MODEL PROGRAMMING
*
Q20 105 106 107 QNL
R3 108 109 2
R4 110 109 2
R10 106 111 1E3
R11 112 113 1E3
R12 114 5 100E-3
R13 4 115 100E-3
D5 107 5 DD
D6 4 107 DD
D7 116 0 DIN
D8 117 0 DIN
I8 0 116 0.1E-3
I9 0 117 0.1E-3
E2 118 0 4 0 1
E3 119 0 5 0 1
D9 120 0 DVN
D10 121 0 DVN
I10 0 120 0.1E-3
I11 0 121 0.1E-3
E4 122 2 120 121 0.22
G2 123 2 116 117 4E-6
R22 4 5 100E6
E5 124 0 119 0 1
E6 125 0 118 0 1
E7 126 0 127 0 1
R30 124 128 1E6
R31 125 129 1E6
R32 126 130 1E6
R33 0 128 100
R34 0 129 100
R35 0 130 100
E10 131 1 130 0 0.17
R36 132 127 1E3
R37 127 133 1E3
C6 124 128 2E-12
C7 125 129 20E-9
C8 126 130 40E-12
E11 134 131 129 0 0.07
E12 123 134 128 0 0.04
E14 135 118 119 118 0.5
D11 136 119 DD
D12 118 136 DD
M4 137 138 108 108 PIN L=3U W=5U
M5 139 140 110 110 PIN L=3U W=5U
R46 118 137 3E3
R47 118 139 3E3
C13 137 139 1E-12
C14 123 0 6E-12
C15 122 0 6E-12
C16 107 0 10E-12
D13 141 105 DD
Q15 142 112 107 QPL
V18 143 138 -200U
M19 144 145 119 119 PIN L=6U W=500U
E17 133 0 123 0 1
E18 132 0 2 0 1
M23 145 145 119 119 PIN L=6U W=500U
V21 144 109 -0.3
R59 107 146 60
R60 147 107 12
J1 148 123 148 JC
J2 148 122 148 JC
J3 122 149 122 JC
J4 123 149 123 JC
C21 123 122 2E-12
E20 150 135 139 137 1
R62 150 151 1E4
C23 151 135 0.3E-12
G11 5 4 37 0 4.25E-3
R75 134 123 1E9
R76 131 134 1E9
R77 1 131 1E9
R78 2 122 1E9
R79 135 151 1E9
R83 127 0 1E9
G14 145 118 37 0 800U
E48 152 151 37 0 30
E49 153 135 37 0 -30
V49 154 153 15
V50 155 152 -15
R127 152 0 1E12
R128 153 0 1E12
M41 135 155 151 156 PSW L=1.5U W=150U
M42 151 154 135 157 NSW L=1.5U
R129 156 0 1E12
R130 157 0 1E12
M43 158 159 118 118 NEN L=3U W=300U
M44 160 158 118 118 NEN L=3U W=3000U
R131 158 119 1E4
R132 160 161 1E6
V51 161 118 1
M45 162 162 119 119 PEN L=6U W=60U
M46 159 162 119 119 PEN L=6U W=60U
I20 162 118 0.2E-6
C26 159 0 0.1E-12
E50 37 0 163 118 1
V52 160 163 1.111E-6
R133 118 163 1E12
E51 34 0 5 114 10
E52 33 0 5 6 1
R136 0 33 1E6
R137 0 34 1E6
R138 0 164 1E6
E54 36 0 115 4 10
E55 35 0 4 6 -1
R139 0 35 1E6
R140 0 36 1E6
R141 0 165 1E6
G16 104 0 164 0 -1
C27 104 0 0.2E-4
C28 166 0 1.2E-4
R142 104 166 0.7
R143 166 167 0.7
C29 167 0 2E-4
C32 119 158 25E-12
C33 161 160 9E-12
G17 103 0 165 0 -1
C34 103 0 0.2E-4
C35 169 0 1.2E-4
R156 103 169 0.7
R157 169 170 0.7
C36 170 0 2E-4
E63 171 118 172 0 10
R165 118 171 1E6
V63 173 0 300
M57 174 175 119 119 PIN L=6U W=0.4U
M58 174 175 118 118 NIN L=3U W=0.2U
R166 0 174 8400E3
M59 176 171 118 118 NIN L=3U W=125U
R167 176 119 100E3
R169 118 175 1E6
D24 176 175 DD
C37 175 118 30E-12
R172 177 178 1E6
R173 173 177 1E6
E64 179 0 177 104 10
D25 172 180 DD
D26 181 172 DD
R174 179 172 1E4
V66 181 0 -15
V67 180 0 15
E65 182 0 174 0 6
R175 159 174 1E8
D27 178 180 DD
D28 181 178 DD
R176 178 182 1E4
E66 183 118 184 0 1
R177 118 183 1E6
M64 185 183 118 118 NIN L=3U W=125U
R178 185 119 100E3
D29 185 175 DD
R180 186 187 1E6
R181 173 186 1E6
E67 188 0 186 103 10
D30 184 189 DD
D31 190 184 DD
R182 188 184 1E4
V70 190 0 -15
V71 189 0 15
E68 191 0 174 0 6
D32 187 189 DD
D33 190 187 DD
R183 187 191 1E4
R184 175 174 100E6
I21 5 4 250E-6
I22 0 192 1E-3
D34 192 0 DD
V72 192 193 0.702
R185 0 193 1E6
E69 168 0 193 0 -560
R186 0 168 1E6
R187 0 191 1E9
R188 188 0 1E9
R189 0 182 1E9
R190 179 0 1E9
V74 119 148 0
V75 149 118 5.5
R195 0 37 1E9
M65 194 175 118 118 NIN L=3U W=0.4U
R199 194 5 400K
R201 194 159 100E3
M66 159 175 118 118 NIN L=3U W=2U
C38 194 0 0.2E-12
R302 107 6 2
R314 145 119 1E9
R315 119 162 1E9
D36 142 195 DD
Q21 114 141 146 QNO
Q22 115 195 147 QPO
Q23 118 196 197 QPO
R316 197 141 60
Q24 119 196 198 QNO
R317 195 198 12
R318 135 199 10
R319 135 196 10
C39 199 135 5000E-12
C40 196 135 1500E-12
E79 200 201 202 0 1
E80 201 203 202 0 1
E81 204 135 201 135 1
D37 205 119 DD
D38 118 206 DD
V78 203 206 1.05
V79 205 200 1.55
I25 0 207 1E-3
D39 207 0 DD
V80 202 207 -0.71465
C41 201 135 14P
D40 208 209 DD
D41 210 211 DD
R320 212 201 6.19K
R321 135 212 1.5E9
G19 199 135 201 135 0.1
G20 196 135 199 135 0.1
E83 208 204 202 0 1
E84 211 204 202 0 -1
R325 201 200 1E9
R326 203 201 1E9
R327 204 135 1E12
R328 0 208 1E12
R329 0 211 1E12
R330 0 202 1E12
G21 212 135 151 135 -0.15E-3
G22 119 141 37 0 1E-3
G23 195 118 37 0 1E-3
G35 123 0 213 0 11E-12
I41 123 0 17E-12
I46 0 214 1E-3
D44 214 0 DD
V112 214 215 0.7
R331 0 215 1E6
E93 216 0 215 0 -571
R332 0 216 1E6
R333 217 216 1E6
D45 218 217 DD
V113 218 219 27
V114 217 213 26.4
I47 0 220 1E-3
D46 220 0 DD
V115 220 221 0.7
R334 0 221 1E6
E94 219 0 221 0 1
G36 122 0 213 0 11E-12
I48 122 0 17E-12
R335 0 219 1E9
R336 0 213 1E12
M67 7 222 223 223 PIN L=6U W=0.4U
M68 222 222 223 223 PIN L=6U W=0.4U
R337 222 223 1E9
G37 222 0 224 0 140E-6
V116 119 223 0.89
I49 222 0 50E-9
E95 225 0 37 0 -1
R339 0 225 1E9
V117 224 225 1
R340 0 224 1E9
R341 123 143 8700
R342 140 122 8700
R344 0 7 1E12
V121 212 209 -0.3
V122 212 210 0
E97 111 107 146 107 0.1
E98 107 113 107 147 0.5
C42 6 0 1E-12
.MODEL DD D
.MODEL DVN D KF=3E-14 IS=1E-16
.MODEL DIN D
.MODEL JC NJF
.MODEL QNL NPN
.MODEL QPL PNP
.MODEL QNO NPN BF=450
.MODEL QPO PNP BF=450
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PMON PMOS KP=195U VTO=-0.7
.MODEL NMON NMOS KP=195U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-0.7 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.ENDS
*End of model OPA452